US04080505
In 5 ml of water is dissolved 350 mg of sodium 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionate, followed by the addition of 2-N hydrochloric acid. The oily substance separated out is extracted with ether. The extract is washed with water and the solvent is distilled off. The described procedure gives 300 mg of 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionic acid, as a yellow oily substance.

reactant | sodium 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionate | 350 mg | ClC(C(=O)[O-])CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 5 ml | O | H2O
product | 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionic acid | 300 mg | ClC(C(=O)O)CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C | C19H21ClO3
